US08183398B2
Preparation of 6-methyl-4-oxo-4H-pyran-3-yl 4-fluorobenzoate:
Allomaltol (600 mg; 4.76 mmol) was weighed out into a round bottom flask (100 ml) containing a stir-bar. The contents were diluted with anhydrous THF (˜20 ml) and stirred (˜5 min) to afford a solution. Next, trimethyl amine (840 μl) was added drop-wise and the contents stirred (˜5 min). 4-Fluorobenzoyl chloride (600 μl) was then added drop-wise, capped and stirred at room temperature. The reaction was monitored via silica gel TLC. Once complete, the reaction mixture was concentrated under reduced pressure and the contents purified by silica gel chromatography to afford 1.04 g crystalline product (4.19 mmol; 88% yield). This compound was found to have an EC50 of >1 mM. 1H NMR (DMSO-d6) δ 8.59 (s, 1H; 2-H); 8.18-8.13 (dd, 2H); 7.47-7.41 (t, 2H); 6.44 (s, 1H; 5-H); 2.34 (s, −3H; 6-CH3).

reactant | Allomaltol | 4.76 mmol, 600 mg | CC1=CC(=O)C(=CO1)O | C6H6O3
reactant | trimethyl amine | 840 μl | CN(C)C | C3H9N
reactant | 4-Fluorobenzoyl chloride | 600 μl | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | THF | ˜20 ml | C1CCOC1 | C4H8O
product | 6-methyl-4-oxo-4H-pyran-3-yl 4-fluorobenzoate | 4.19 mmol, 1.04 g, 88% yield | FC1=CC=C(C(=O)OC2=COC(=CC2=O)C)C=C1 | C13H9FO4
